US07220856B2
Preparation of 4-[4-(4-Fluorophenylaminocarbonyl)piperazin-1-yl]-7-methoxy-2-methylquinoline
7-Methoxy-8-methyl-4-(piperazin-1-yl)quinoline (0.20 g, 0.8 mmol) and 4-fluorophenyl isocyanate (102 μL, 0.9 mmol) in THF (10 mL) are reacted according to method C yielding the product as a yellow solid after column chromatography with hexane-EtOAc.

reactant | 7-Methoxy-8-methyl-4-(piperazin-1-yl)quinoline | 0.8 mmol, 0.20 g | COC1=CC=C2C(=CC=NC2=C1C)N1CCNCC1 | C15H19N3O
reactant | 4-fluorophenyl isocyanate | 0.9 mmol, 102 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[4-(4-Fluorophenylaminocarbonyl)piperazin-1-yl]-7-methoxy-2-methylquinoline | FC1=CC=C(C=C1)NC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)OC)C | C22H23FN4O2
